US06599917B1
b) 4-Benzoyl-2-methoxypyridine
While heating under reflux a 28% sodium methoxide methanol solution mildly, a mixture of 135 g of 4-benzoyl-2-chloropyridine and 150 ml of methanol was added dropwise thereinto over one hour, followed by heating under reflux for further 2 hours. After cooling as it was, the reaction solution was filtered to remove insoluble matters and the solvent was removed. To the residue was added an aqueous sodium bicarbonate solution and the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and then the solvent was removed, to give 130 g of the target compound.

reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | 4-benzoyl-2-chloropyridine | 135 g | C(C1=CC=CC=C1)(=O)C1=CC(=NC=C1)Cl | C12H8ClNO
solvent | methanol | 150 ml | CO | CH4O
product | 4-Benzoyl-2-methoxypyridine | 130 g | C(C1=CC=CC=C1)(=O)C1=CC(=NC=C1)OC | C13H11NO2
